US04329367
The mixture of 2.4 g of 1-[4-(4-carbamoylbenzyloxy)-phenyl]-2-(3,3-diphenylpropylamino)-propane, 3.6 g of boron trifluoride etherate and 20 ml of methanol is heated in a sealed tube at 115° for 6 hours. After cooling it is diluted with water, extracted with ethyl acetate, the extract dried, concentrated and the concentrate neutralized with maleic acid in ethyl acetate, to yield the 1-[4-(4-carbomethoxybenzyloxy)-phenyl]-2-(3,3-diphenylpropylamino)-propane maleate melting at 172°-175°.

reactant | 1-[4-(4-carbamoylbenzyloxy)-phenyl]-2-(3,3-diphenylpropylamino)-propane | 2.4 g | C(N)(=O)C1=CC=C(COC2=CC=C(C=C2)CC(C)NCCC(C2=CC=CC=C2)C2=CC=CC=C2)C=C1 | C32H34N2O2
reactant | boron trifluoride etherate | 3.6 g | B(F)(F)F.CCOCC
reactant | methanol | 20 ml | CO | CH4O
reactant | water | O | H2O
product | 1-[4-(4-carbomethoxybenzyloxy)-phenyl]-2-(3,3-diphenylpropylamino)-propane maleate | C(\C=C/C(=O)O)(=O)O.C(=O)(OC)C1=CC=C(COC2=CC=C(C=C2)CC(C)NCCC(C2=CC=CC=C2)C2=CC=CC=C2)C=C1 | InChI=1S/C33H35NO3.C4H4O4/c1-25(34-22-21-32(28-9-5-3-6-10-28)29-11-7-4-8-12-29)23-26-15-19-31(20-16-26)37-24-27-13-17-30(18-14-27)33(35)36-2;5-3(6)1-2-4(7)8/h3-20,25,32,34H,21-24H2,1-2H3;1-2H,(H,5,6)(H,7,8)/b;2-1-
